US05342610
1 g of 4-hydroxy benzophenone and 4.668 g of epichlorohydrin (0.025 mol) were dissolved, 20.5 mg of sodium hydroxide was added, and the reaction system was heated to 100° C. and then cooled to 95° C. Furthermore 201.4 mg of sodium hydroxide was added, and additional heating and agitation was carried out for 3 hours. The system was cooled to the room temperature, and salt was removed by filtering. The obtained filtrate was condensed under reduced pressure condition, and purified according to the silica gel chromatography to obtain 1.0 g of solid state 4-glycidyloxy benzophenone (Yield: 83%).

reactant | 4-hydroxy benzophenone | 1 g | OC1=CC=C(C(=O)C2=CC=CC=C2)C=C1 | C13H10O2
reactant | epichlorohydrin | 0.025 mol, 4.668 g | C(Cl)C1CO1 | C3H5ClO
reactant | sodium hydroxide | 20.5 mg | [OH-].[Na+]
reactant | sodium hydroxide | 201.4 mg | [OH-].[Na+]
product | 4-glycidyloxy benzophenone | Yield: 83% | C(C1CO1)OC1=CC=C(C(=O)C2=CC=CC=C2)C=C1 | C16H14O3
